US05541200
α- [1- [2- (4-Methoxyphenyl)ethyl]-4-piperidinyl]-α-(benzo[b]thiophene-2-yl)-2-benzo[b]thiophenemethanol
Dissolve benzo[b]thiophene (10.0 g, 74.5 mmol) in anhydrous tetrahydrofuran (100 mL), place under an argon atmosphere and cool to -78° C. Add, by dropwise addition, n-butyllithium (32.79 mL, 81.97 mmol) and stir briefly. Add, by dropwise addition, a solution of 1-[2-(4-methoxyphenyl)ethyl]-4-piperidinecarboxylic acid, methyl ester (20.67 g, 74.52 mmol) in anhydrous tetrahydrofuran (200 mL) and stir at -78° C. for 1.5 hours. Quench with saturated ammonium chloride, separate the organic phase and extract the aqueous phase with ethyl ether. Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (50% ethyl acetate/hexane) and recrystallize (isopropanol) to give the title compound as a white solid; mp 168°-179° C.

reactant | benzo[b]thiophene | 74.5 mmol, 10.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | n-butyllithium | 81.97 mmol, 32.79 mL | C(CCC)[Li]
reactant | 1-[2-(4-methoxyphenyl)ethyl]-4-piperidinecarboxylic acid, methyl ester | 74.52 mmol, 20.67 g | COC1=CC=C(C=C1)CCN1CCC(CC1)C(=O)OC | C16H23NO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | α- [1- [2- (4-Methoxyphenyl)ethyl]-4-piperidinyl]-α-(benzo[b]thiophene-2-yl)-2-benzo[b]thiophenemethanol | COC1=CC=C(C=C1)CCN1CCC(CC1)C(O)(C1=CC2=C(S1)C=CC=C2)C2=CC1=C(S2)C=CC=C1 | C31H31NO2S2
